US09126998B2
rac-N-(2-Amino-3-methoxy-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide
180 mg (0.57 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 3A, 237 mg (0.62 mmol) of HATU and 0.30 ml (1.70 mmol) of N,N-diisopropylethylamine were initially charged in 3.6 ml of DMF, and the mixture was stirred at RT for 20 min. 74 mg (0.62 mmol) of rac-3-methoxy-2-methylpropane-1,2-diamine were then added and the reaction mixture was stirred at RT overnight. The reaction solution was diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. The residue was taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with dichloromethane and the combined organic phases were dried over sodium sulphate, filtered and concentrated. This gave 136 mg (56% of theory, purity 98%) of the title compound.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.57 mmol, 180 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | HATU | 0.62 mmol, 237 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.70 mmol, 0.30 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | rac-3-methoxy-2-methylpropane-1,2-diamine | 0.62 mmol, 74 mg | COCC(CN)(N)C | C5H14N2O
solvent | DMF | 3.6 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-3-methoxy-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(COC)C | C21H24F2N4O3
